US09376418B2
A solution of 2,5-dibromopyridine (100 mg, 0.422 mmol) in tetrahydrofuran (844 μL) was purged and flushed with Ar (g) (3×). Pd(PPh3)4 (48.8 mg, 0.042 mmol) was added to the reaction mixture and purged and flushed (3×) with Ar(g). Bromo(2-cyanoethyl)zinc (1270 μL, 0.633 mmol) was added dropwise to the reaction mixture and heated to 85° C. Upon the reaction completion (as deemed by LCMS analysis) was cooled to room temperature, filtered through CELITE, washed with dichloromethane and diluted with water. The organic layer was extracted, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (acetone/exanes) to yield 3-(5-bromopyridin-2-yl)propanenitrile. MS APCI calc'd for C8H8BrN2 [M+H]+ 211 and 213. found 211 and 213.

reactant | 2,5-dibromopyridine | 0.422 mmol, 100 mg | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | Bromo(2-cyanoethyl)zinc | 0.633 mmol, 1270 μL | Br[Zn]CCC#N
solvent | tetrahydrofuran | 844 μL | O1CCCC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.042 mmol, 48.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-bromopyridin-2-yl)propanenitrile | BrC=1C=CC(=NC1)CCC#N | C8H7BrN2
